US07645789B2
To a solution of methyl 1-(1H-indol-5-yl)cyclopropanecarboxylate (1.74 g, 8 mmol) in CH3OH (50 m L) and water (20 mL) was added LiOH (1.7 g, 0.04 mol). The mixture was heated at 45° C. for 3 hr. Water was added and the mixture was acidified with concentrated HCl to pH ˜3 before being extracted with EtOAc (20 mL×3). The organic layers were dried over anhydrous Na2SO4 and evaporated to give 1-(1H-indol-5-yl)cyclopropanecarboxylic acid (1.4 g, 87%). 1H NMR (300 MHz, DMSO-d6) 7.43 (s, 1H), 7.30-7.26 (m, 2H), 7.04 (dd, J=1.5, 8.4 Hz, 1H), 6.35 (s, 1H); 1.45-1.41 (m, 2H), 1.14-1.10 (m, 2H).

reactant | methyl 1-(1H-indol-5-yl)cyclopropanecarboxylate | 8 mmol, 1.74 g | N1C=CC2=CC(=CC=C12)C1(CC1)C(=O)OC | C13H13NO2
reactant | LiOH | 0.04 mol, 1.7 g | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | CH3OH | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 1-(1H-indol-5-yl)cyclopropanecarboxylic acid | 1.4 g, 87% | N1C=CC2=CC(=CC=C12)C1(CC1)C(=O)O | C12H11NO2
